US04258187
A stirred mixture of 12.11 g (0.04 mole) of 6-chloro-3-ethyl-3,4-dihydro-4-hydroxy-4-phenyl-2(1H)quinazolinone and 8.34 g (0.12 mole) of hydroxylamine hydrochloride in 200 ml ethanol was refluxed for 3 days and then cooled. The solid portion of the reaction mixture was collected on a filter, washed with ethanol, and dried to give 9.27 g (85%) of 6-chloro-4-phenyl-2(1H)quinazolinone 3-oxide as yellow crystals, mp 267°-269°.

reactant | 6-chloro-3-ethyl-3,4-dihydro-4-hydroxy-4-phenyl-2(1H)quinazolinone | 0.04 mole, 12.11 g | ClC=1C=C2C(N(C(NC2=CC1)=O)CC)(C1=CC=CC=C1)O | C16H15ClN2O2
reactant | hydroxylamine hydrochloride | 0.12 mole, 8.34 g | Cl.NO
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 6-chloro-4-phenyl-2(1H)quinazolinone 3-oxide | 9.27 g, 85% | ClC=1C=C2C(=[N+](C(NC2=CC1)=O)[O-])C1=CC=CC=C1 | C14H9ClN2O2
